US06426360B1
Step 1 Preparation of 4-Fluoro-3-methylbenzaldehyde
5-Bromo-2-fluoro-toluene (26 mmol, 5.0 g) was dissolved in tetrahydrofuran (25 ml) and cooled to −78° C. t-Butyllithium (1.7 M in pentane, 31 ml) was added over 10 minutes. After 30 minutes, N,N-dimethylformamide (2.1 ml) was added. The reaction mixture was warmed to ambient over 30 minutes and 6% HCl (100 ml) was added with vigorous swirling. The mixture was extracted with ethyl acetate (200 ml). The organic layer was dried over MgSO4, then concentrated affording the title compound as an oil (3.6 g, ˜quant.).

reactant | 5-Bromo-2-fluoro-toluene | 26 mmol, 5.0 g | BrC=1C=CC(=C(C1)C)F | C7H6BrF
reactant | t-Butyllithium | 1.7 M, 31 ml | C(C)(C)(C)[Li]
reactant | N,N-dimethylformamide | 2.1 ml | CN(C=O)C | C3H7NO
reactant | HCl | 100 ml | Cl | ClH
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 4-Fluoro-3-methylbenzaldehyde | 3.6 g | FC1=C(C=C(C=O)C=C1)C | C8H7FO
